US07476399B2
(R)-methyl 2-(4-fluoro-3-methylbenzamido)-4-methylpentanoate
Prepared in a similar manner to example 4 using 4-fluoro-3-methylbenzoic acid and D-leucine methyl ester. MS (M+H, 282).

reactant | 4-fluoro-3-methylbenzoic acid | FC1=C(C=C(C(=O)O)C=C1)C | C8H7FO2
reactant | D-leucine methyl ester | COC([C@H](N)CC(C)C)=O | C7H15NO2
product | (R)-methyl 2-(4-fluoro-3-methylbenzamido)-4-methylpentanoate | FC1=C(C=C(C(=O)N[C@@H](C(=O)OC)CC(C)C)C=C1)C | C15H20FNO3
